US04304924
To a mixture of 3.2 g (12.8 mmol) of 4-(2-cyclopropylcarbonyloxyethoxy)benzoic acid, 80 ml of ether and 1.5 ml (20.5 mmol) of thionyl chloride, at RT, is added 0.3 ml (3.8 mmol) of dimethylformamide. This mixture is stirred, at RT, for 1 day. The top phase is decanted (the residue is discarded), and solvent and other volatiles are removed from it by rotoevaporation to give 4-(2-cyclopropylcarbonyloxyethoxy)benzoic acid chloride.

reactant | 4-(2-cyclopropylcarbonyloxyethoxy)benzoic acid | 12.8 mmol, 3.2 g | C1(CC1)C(=O)OCCOC1=CC=C(C(=O)O)C=C1 | C13H14O5
reactant | thionyl chloride | 20.5 mmol, 1.5 ml | S(=O)(Cl)Cl | Cl2OS
reactant | dimethylformamide | 3.8 mmol, 0.3 ml | CN(C=O)C | C3H7NO
solvent | ether | 80 ml | CCOCC | C4H10O
product | 4-(2-cyclopropylcarbonyloxyethoxy)benzoic acid chloride | C1(CC1)C(=O)OCCOC1=CC=C(C(=O)Cl)C=C1 | C13H13ClO4
